US04552879
To a solution of 24 g of 2-methyl-4-morpholino-5-fluoro-7-bromoindole in 200 ml of ethanol was added 1 of palladium-carbon and then 15 ml of a 20% aqueous sodium hydroxide solution. This mixture was subjected to catalytic reduction at room temperature and at atmospheric pressure. The reaction was stopped when a theoretical amount (about 1.7 l) of hydrogen was absorbed, and the catalyst was removed by filtration followed by concentration. The residue was purified through silica gel column chromatography (Wako gel C-200; eluent: chloroform: n-hexane=5:1) to give 11.8 g of 2-methyl-4-morpholino-5-fluoroindole.

reactant | 2-methyl-4-morpholino-5-fluoro-7-bromoindole | 24 g | CC=1NC2=C(C=C(C(=C2C1)N1CCOCC1)F)Br | C13H14BrFN2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen | about 1.7 l | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | 2-methyl-4-morpholino-5-fluoroindole | 11.8 g | CC=1NC2=CC=C(C(=C2C1)N1CCOCC1)F | C13H15FN2O
